US05576321
Preparation of (2S)-(+)-3-[4-(6-chloro-2-benzo[b]thiophenyl)-1,2,3,6-tetrahydropyridin-1-yl]-1-(4-indolyloxy)-2-propanol
The title compound was prepared in a fashion similar to that described in Example 1 using (S)-(+)-4-(oxiranylmethoxy)-1H-indole (0.166 g, 0.088 mmol) and 6-chloro-2-(1,2,3,6-tetrahydropyridin-4-yl)benzo[b]thiophene (0.200 g, 0.080 mmol) using ethanol as reaction solvent. Yield 0.122 g (35%) of a tan powder. FDMS m/e=438 (M+ of free base).

reactant | (S)-(+)-4-(oxiranylmethoxy)-1H-indole | 0.088 mmol, 0.166 g | O1[C@@H](C1)COC1=C2C=CNC2=CC=C1 | C11H11NO2
reactant | 6-chloro-2-(1,2,3,6-tetrahydropyridin-4-yl)benzo[b]thiophene | 0.080 mmol, 0.200 g | ClC=1C=CC2=C(SC(=C2)C=2CCNCC2)C1 | C13H12ClNS
solvent | ethanol | C(C)O | C2H6O
product | (2S)-(+)-3-[4-(6-chloro-2-benzo[b]thiophenyl)-1,2,3,6-tetrahydropyridin-1-yl]-1-(4-indolyloxy)-2-propanol | ClC=1C=CC2=C(SC(=C2)C=2CCN(CC2)C[C@@H](COC2=C3C=CNC3=CC=C2)O)C1 | C24H23ClN2O2S
